US04713477
2-tetrahydropyranyl-but-3-yne (1.14 parts) in 15 parts by volume of tetrahydrofuran are cooled to -20° C. and 4.63 parts by volume of 1.6N n-butyl lithium are added. The reaction mixture is allowed to warm to 0° C. and again cooled to -20° C. and then 1 part of bromomethylcyclopropane in 3 parts by volume of tetrahydrofuran are added. The reaction mixture is allowed to warm to room temperature and 15 parts by volume of hexamethylphosphoric triamide is added and the reaction is stirred over three hours. The reaction mixture is poured into ether/water and extracted several times with ethyl acetate. The extracts are washed with water and saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent is removed by evaporation at reduced pressure and the residual oil is chromotographed with 10% ethyl acetate/hexane to provide 5-cyclopropyl-2-tetrahydropyranyl-pent-3-yne. This material is dissolved in a solution of 25 parts by volume of tetrahydrofuran, 25 parts by volume methanol, and 25 parts by volume of 1N HCl and stirred at room temperature for 1 hour. The reaction mixture is poured into a mixture of ether and water. The aqueous layer is extracted with ethyl acetate and the extracts are combined and washed with water and saturated sodium chloride. The organic layer is dried over anhydrous sodium sulfate and chromatographed with 15% ethyl acetate/hexane to provide 5-cyclopropyl-pent-3-yne-2-ol. 1.5 parts of this alcohol is reacted with 3.25 parts of pyridinium chlorochromate in 35 parts by volume of methylene chloride. The reaction mixture is stirred for three hours at room temperature, 100 parts by volume of ether is added and the mixture is stirred for 1 hour then filtered through Florisil. The solvent is removed by evaporation at reduced pressure. The residue is dissolved in hexane and again filtered. The solvent is evaporated under reduced pressure to provide 5-cyclopropyl pent-3-yne-2-one.

reactant | 2-tetrahydropyranyl-but-3-yne | O1C(CCCC1)C(C)C#C | C9H14O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyl lithium | 1.6N | C(CCC)[Li]
reactant | bromomethylcyclopropane | BrCC1CC1 | C4H7Br
solvent | ether water | CCOCC.O
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 5-cyclopropyl-2-tetrahydropyranyl-pent-3-yne | C1(CC1)CC#CC(C)C1OCCCC1 | C13H20O
